switch
.include TSMC_180nm.txt
.param LAMBDA = 0.09u
.param L_n = 2*LAMBDA
.param width_N = 20*LAMBDA
.param SUPPLY = 1.8

M1 out in gnd gnd CMOSN L={L_n} W={width_N}
+ AS={5*width_N*LAMBDA}
+ PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA}
+ PD={10*LAMBDA+2*width_N}

.ic(out)=0
Vin in gnd {SUPPLY}

.tran 